US08044041B2
A mixture 6-bromo-4-chloro-2H-phthalazin-1-one (156 mg, 0.601 mmol), 1-(3-isopropoxyphenyl)methanamine (116 mg, 0.702 mmol), Pd2(dba)3 (53 mg, 0.0578 mmol), rac-BINAP (113 mg, 0.181 mmol) and NaOtBu (139 mg, 1.445 mmol) in DMA (6 mL) was heated at 85° C. for 2 h. The mixture was allowed to cool, diluted with EtOAc and washed with water. The organic layer was washed with sat.aq. NaHCO3, brine and dried (Na2SO4). Chromatography on silica (EtOAc/hexanes) afforded 4-chloro-6-(3-isopropoxy-benzylamino)-2H-phthalazin-1-one (45 mg) as an off white solid, 1H (400 MHz, d6-DMSO) δ: 1.22 (d, 6H), 4.40 (d, 2H), 4.57 (quintet, 1H), 6.80 (m, 2H), 6.91 (m, 2H), 7.16 (dd, 1H), 7.22 (t, 1H), 7.64 (t, 1H), 7.92 (d, 1H), 12.34 (s, 1H) ppm; m/z (M+1) 344.01.

reactant | 6-bromo-4-chloro-2H-phthalazin-1-one | 0.601 mmol, 156 mg | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
reactant | 1-(3-isopropoxyphenyl)methanamine | 0.702 mmol, 116 mg | C(C)(C)OC=1C=C(C=CC1)CN | C10H15NO
reactant | rac-BINAP | 0.181 mmol, 113 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 1.445 mmol, 139 mg | CC(C)(C)[O-].[Na+]
solvent | DMA | 6 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.0578 mmol, 53 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-chloro-6-(3-isopropoxy-benzylamino)-2H-phthalazin-1-one | 45 mg | ClC1=NNC(C2=CC=C(C=C12)NCC1=CC(=CC=C1)OC(C)C)=O | C18H18ClN3O2
